US08859541B2
C4a) tert-butyl-N-[1-oxo-1-[[1-(2-trimethylsilylethynyl)isoquinolin-3-yl]amino]-propan-2-yl]carbamate
A mixture of tert-butyl-N-[1-[(1-bromoisoquinolin-3-yl)amino]-1-oxopropan-2-yl]-carbamate B4a (500 mg, 1.27 mmol), ethynyl(trimethyl)silane (137 mg, 1.4 mmol), copper(I) iodide (23 mg, 0.12 mmol), Dichlorobis(triphenylphosphine)palladium(II) (90 mg, 0.13 mmol) and DIPEA (700 μl, 4.12 mmol) is stirred under argon atmosphere in NMP (4 ml) for 1 h at 80° C. The mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 319 mg (61%). HPLC-MS: M+H=412; tR=2.11 min (*Method—4).

reactant | tert-butyl-N-[1-[(1-bromoisoquinolin-3-yl)amino]-1-oxopropan-2-yl]-carbamate | C(C)(C)(C)OC(NC(C(=O)NC=1N=C(C2=CC=CC=C2C1)Br)C)=O | C17H20BrN3O3
reactant | ethynyl(trimethyl)silane | 1.4 mmol, 137 mg | C(#C)[Si](C)(C)C | C5H10Si
reactant | DIPEA | 4.12 mmol, 700 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 4 ml | CN1CCCC1=O | C5H9NO
catalyst | copper(I) iodide | 0.12 mmol, 23 mg | [Cu]I
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.13 mmol, 90 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl-N-[1-oxo-1-[[1-(2-trimethylsilylethynyl)isoquinolin-3-yl]amino]-propan-2-yl]carbamate | C(C)(C)(C)OC(NC(C(NC=1N=C(C2=CC=CC=C2C1)C#C[Si](C)(C)C)=O)C)=O | C22H29N3O3Si
